US06268387B1
3-[3-(3-Chlorophenyl)-thioureido]-4-methoxy-N-phenyl-benzamide
Prepared according to the procedure described for Example 60 using 3-amino-4-methoxy-N-phenyl-benzamide (0.218 g, 0.90 mmol) and 3-chlorophenyl isothiocyanate (0.12 mL, 0.92 mmol) to give the product (0.286 g); m.p. 165-168° C.

reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 0.90 mmol, 0.218 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | 3-chlorophenyl isothiocyanate | 0.92 mmol, 0.12 mL | ClC=1C=C(C=CC1)N=C=S | C7H4ClNS
product | 3-[3-(3-Chlorophenyl)-thioureido]-4-methoxy-N-phenyl-benzamide | 0.286 g | ClC=1C=C(C=CC1)NC(NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC)=S | C21H18ClN3O2S
